US07005431B2
a) 3-Fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile
A mixture of 2-bromo-3-fluorobenzonitrile (1.20 g, 6.00 mmol), dried potassium acetate (1.18 g, 12.0 mmol) and bis(pinacolato)diboron (1.75 g, 6.89 mmol) in 1,4-dioxane (14.7 ml) and dimethylsulfoxide (0.3 ml) was degassed by bubbling nitrogen through the mixture for 50 min. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.1481 g, 0.181 mmol) was added and the mixture was degassed for a further 10 min, then heated at 90° C. under nitrogen for 18 h. After allowing to cool, the mixture was filtered through glass fibre paper, and the solid was washed with a little dichloromethane. The combined filtrates were evaporated in vacuo and the residue was partitioned between 2 M aqueous NaOH (21 ml) and diethyl ether (20 ml). The aqueous layer was then acidified to pH 5 with concentrated hydrochloric acid (3 ml), causing a solid to precipitate. After leaving in a fridge for 3 days, the solid was collected by filtration, washed with water and dried under vacuum to leave 0.9191 g (62%) of the title compound as a white solid: 1H NMR (360 MHz, DMSO-d6) δ 1.34 (12H, s), 7.55–7.59 (1H, mn), 7.69–7.75 (2H, m).

reactant | 2-bromo-3-fluorobenzonitrile | 6.00 mmol, 1.20 g | BrC1=C(C#N)C=CC=C1F | C7H3BrFN
reactant | potassium acetate | 12.0 mmol, 1.18 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 6.89 mmol, 1.75 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 14.7 ml | O1CCOCC1 | C4H8O2
solvent | dimethylsulfoxide | 0.3 ml | CS(=O)C | C2H6OS
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.181 mmol, 0.1481 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 3-Fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | 0.9191 g, 62% | FC=1C(=C(C#N)C=CC1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
